US05130322
A mixture of 2.98 g of 2-methoxymethyl-2-methyl-4-(1,2-dihydro-2-oxo-1-pyridyl)-6-carbamoylchroman, 2 ml of POCl3 and 200 ml of 1,2-dichloroethane is boiled for 45 min. Cooling and customary working up gives 2-methoxymethyl-2-methyl-4-(1,2-dihydro-2-oxo-1-pyridyl)-6-cyanochroman.

reactant | 2-methoxymethyl-2-methyl-4-(1,2-dihydro-2-oxo-1-pyridyl)-6-carbamoylchroman | 2.98 g | COCC1(OC2=CC=C(C=C2C(C1)N1C(C=CC=C1)=O)C(N)=O)C | C18H20N2O4
reactant | POCl3 | 2 ml | O=P(Cl)(Cl)Cl | Cl3OP
solvent | 1,2-dichloroethane | 200 ml | ClCCCl | C2H4Cl2
product | 2-methoxymethyl-2-methyl-4-(1,2-dihydro-2-oxo-1-pyridyl)-6-cyanochroman | COCC1(OC2=CC=C(C=C2C(C1)N1C(C=CC=C1)=O)C#N)C | C18H18N2O3
